USRE029651
Preparation of ammonium-3-methyl-2-nicotinoyloxy-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}benzoate
A solution of the sodium salt of antibiotic X-537A (6.12 g.) in pyridine (10 ml.) was stirred at room temperature under nitrogen with 3 g. of nicotinoyl chloride hydrochloride for 13 days. Extraction and purification as in Example 22 gave a yellow residue which resisted crystallization. Attempted crystallization from hexane gave a gum which was dried on a clay plate to an amorphous solid, m.p. 81°-92° (dec.) [α]D25 -14.64° (C=1.04 in methanol).

reactant | sodium | [Na] | Na
reactant | X-537A | 6.12 g | CC[C@H]([C@@H]1[C@H](C[C@@](O1)(CC)[C@H]2CC[C@@]([C@@H](O2)C)(CC)O)C)C(=O)[C@@H](C)[C@H]([C@H](C)CCC3=C(C(=C(C=C3)C)O)C(=O)O)O | C34H54O8
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | ammonium 3-methyl-2-nicotinoyloxy-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}benzoate | [NH4+].CC=1C(=C(C(=O)[O-])C(=CC1)CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)OC(C1=CN=CC=C1)=O | InChI=1S/C40H57NO9.H3N/c1-9-30(35-25(6)21-40(11-3,50-35)31-18-19-39(47,10-2)27(8)48-31)34(43)26(7)33(42)23(4)14-16-28-17-15-24(5)36(32(28)37(44)45)49-38(46)29-13-12-20-41-22-29;/h12-13,15,17,20,22-23,25-27,30-31,33,35,42,47H,9-11,14,16,18-19,21H2,1-8H3,(H,44,45);1H3
